US04735959
4-[(1-(2-Piperidino-phenyl)-1-ethyl)-aminocarbonylmethyl]-benzaldehyde
The above compound was prepared by the heating of crude N1 -[4-[(1-(2-piperidino-phenyl)-ethyl)-aminocarbonylmethyl]benzoyl]-N2 -tosyl-hydrazine with anhydrous sodium carbonate at 160°-170° C. in ethylene glycol [prepared from 4-[(1-(2-piperidino-phenyl)-ethyl)-aminocarbonylmethyl]-benzoic acid and tosyl-hydrazine with carbonyl diimidazole in tetrahydrofuran].

reactant | N1 -[4-[(1-(2-piperidino-phenyl)-ethyl)-aminocarbonylmethyl]benzoyl]-N2 -tosyl-hydrazine | N1(CCCCC1)C1=C(C=CC=C1)C(C)C(C1=CC=C(C(=O)NNS(=O)(=O)C2=CC=C(C)C=C2)C=C1)C(=O)N | C29H34N4O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 4-[(1-(2-Piperidino-phenyl)-1-ethyl)-aminocarbonylmethyl]-benzaldehyde | N1(CCCCC1)C1=C(C=CC=C1)C(C)C(C1=CC=C(C=O)C=C1)C(=O)N | C22H26N2O2
